US05864039
4-Amino-5-chloro-N-((1-(5-(4-fluorobenzylamino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide (1.8 g) as starting compound, acetaldehyde (0.25 ml) and sodium cyanoborohydride (0.28 g) were reacted and treated in the same manner as in Example 136 to give 1.0 g of 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-(4-fluorobenzyl)amino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-N-((1-(5-(4-fluorobenzylamino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 1.8 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CC=C(C=C2)F)C=C1Cl)OC | C26H36ClFN4O2
reactant | acetaldehyde | 0.25 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.28 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-(4-fluorobenzyl)amino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 1.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN(CC2=CC=C(C=C2)F)CC)C=C1Cl)OC | C28H40ClFN4O2
